US06458780B1
A 1 M ethylmagnesium bromide/THF solution (4.78 ml) was added in an argon atmosphere at −40° C. to a solution of 963 mg of 5-iodo-7-methylthioimidazo[5,1-b]thiazole in 30 ml of dry THF. The mixture was stirred at the same temperature for 30 min. Acetyl chloride (0.35ml) was added thereto. The temperature of the system was raised to −5° C. over a period of 2 hr. A saturated aqueous ammonium chloride solution was added to the reaction mixture. Ethyl acetate was added thereto, followed by washing with a dilute aqueous sodium thiosulfate solution and saturated brine in that order. The organic layer was dried over anhydrous magnesium sulfate. The solvent was removed by distillation. The residue was purified by column chromatography on silica gel (dichloromethane:ethyl acetate:hexane=2:1:1) to give 384 mg of 5-acetyl-7-methylthioimidazo[5,1-b]thiazole.

reactant | ethylmagnesium bromide THF | 1 M, 4.78 ml | C(C)[Mg]Br.C1CCOC1
reactant | 5-iodo-7-methylthioimidazo[5,1-b]thiazole | 963 mg | IC1=NC(=C2SC=CN21)SC | C6H5IN2S2
reactant | Acetyl chloride | 0.35ml | C(C)(=O)Cl | C2H3ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-acetyl-7-methylthioimidazo[5,1-b]thiazole | 384 mg | C(C)(=O)C1=NC(=C2SC=CN21)SC | C8H8N2OS2
